US07411072B2
3-(2,8-Dimethoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol
Following procedures essentially as described in Example 219, below, and using 3-hydroxyphenyl boronic acid (304 mg, 2.2 mmol) with 5-bromomethylene-2,8-dimethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (690 mg, 2 mmol) to give 990 mg crude product. Purify the crude product using column chromatography eluting with 8% EtOAc/hexane to 25% EtOAc/hexane to give 240 mg (33%) product as a colorless oil. MS (ES) 357 (M−1). HPLC shows 99% purity at t=3.33 min.

reactant | 3-hydroxyphenyl boronic acid | 2.2 mmol, 304 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | 5-bromomethylene-2,8-dimethoxy-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 2 mmol, 690 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)OC)C=C(C=C2)OC | C18H17BrO2
product | 3-(2,8-Dimethoxy-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | 240 mg, 33% | COC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC)=CC=3C=C(C=CC3)O)C=C1 | C24H22O3
